US06858638B2
N-tert-Butoxycarbonyl-5-nitro-3-phenyl-1H-indazole can be obtained in the following way: 6.8 g of di-tert-butyl dicarbonate in solution in 70 ml of dichloromethane are added dropwise over 30 minutes to a solution, cooled to a temperature in the region of 0° C., of 5 g of 5-nitro-3-phenyl-1H-indazole, of 100 ml of dichloromethane, of 5.9 ml of triethylamine and of 0.6 g of 4-dimethylaminopyridine. Stirring is maintained for 18 hours at a temperature in the region of 20° C. 200 ml of distilled water are added to the reaction medium, which is extracted with 100 ml of dichloromethane. The organic phases are dried over magnesium sulfate, filtered and concentrated by evaporation under reduced pressure. The residue obtained is purified by chromatography on a silica column with dichloromethane as eluent. 6.9 g of N-tert-butoxycarbonyl-5-nitro-3-phenyl-1H-indazole are thus obtained in the form of a white solid melting at 110° C.

reactant | di-tert-butyl dicarbonate | 6.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-nitro-3-phenyl-1H-indazole | 5 g | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C1=CC=CC=C1 | C13H9N3O2
reactant | triethylamine | 5.9 ml | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl-5-nitro-3-phenyl-1H-indazole | 6.9 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1 | C18H17N3O4
